US05900475
Preparation of (3-chloropropyl)octadecyldimethylammonium bromide
A 1000 mL, round-bottomed flask equipped with air condensers and a magnetic stirring plate was charged with N,N-dimethyloctadecylamine (301.0 grams, 1.01 moles), 1-bromo-3-chloropropane (1700 grams, 1.08 moles) and methanol (200 mL). The reaction was maintained at 65° C. for 18 hours. Solvent was removed by rotary evaporation under reduced pressure to yield clear oil. The oil was transferred to a beaker containing methylethylketone (250 mL) causing a white precipitate to form. Solid material was collected by vacuum filtration, resuspended in methylethylketone (250 mL) and collected by vacuum filtration an additional two times. The solid was placed in a vacuum oven at 30° C. overnight. Yield 274.9 grams (0.59 moles, 58%).

reactant | N,N-dimethyloctadecylamine | 1.01 moles, 301.0 grams | CN(C)CCCCCCCCCCCCCCCCCC | C20H43N
reactant | 1-bromo-3-chloropropane | 1.08 moles, 1700 grams | BrCCCCl | C3H6BrCl
reactant | methanol | 200 mL | CO | CH4O
solvent | methylethylketone | 250 mL | CC(=O)CC | C4H8O
product | (3-chloropropyl)octadecyldimethylammonium bromide | [Br-].ClCCC[N+](C)(C)CCCCCCCCCCCCCCCCCC | InChI=1S/C23H49ClN.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-22-25(2,3)23-20-21-24;/h4-23H2,1-3H3;1H/q+1;/p-1
